US06951879B2
0.300 g (0.697 mmol) Methanesulfonic acid 2-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-ethyl ester dissolved in 2.0 ml of N,N-dimethylformamide were treated with 0.137 g (2.09 mmol) sodium azide and the reaction mixture heated to 80° C. for 1 hour. It was then cooled to room temperature, poured into 30 ml of ice-water and extracted 3 times with 10 ml of ether. The combined ether phases were washed with brine, dried over magnesium sulfate and evaporated under reduced pressure giving 0.262 g (99.6%) 6-(2-Azido-ethoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene as colorless oil, MS: 377 (M+).

reactant | Methanesulfonic acid 2-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-ethyl ester | 0.697 mmol, 0.300 g | CC1=C(C2=C(S1)C=C(C=C2)OCCOS(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F | C19H17F3O4S2
reactant | sodium azide | 2.09 mmol, 0.137 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 6-(2-Azido-ethoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene | 0.262 g, 99.6% | N(=[N+]=[N-])CCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C(F)(F)F)C)C1 | C18H14F3N3OS
